US06211215B1
In substantially the same manner as in Working Example 72, 1-[4-(4-hydroxyphenyl)butyl]imidazole was reacted with 5-chloromethyl-3-(2-thienyl)-1,2,4-oxadiazole to obtain 5-[4-[4-(1-imidazolyl)butyl]phenoxymethyl]-3-(2-thienyl)-1,2,4-oxadiazole. The yield was 29%. Recrystallization from a ethyl acetate-MeOH gave colorless prisms, mp 94-95° C.

reactant | 1-[4-(4-hydroxyphenyl)butyl]imidazole | OC1=CC=C(C=C1)CCCCN1C=NC=C1 | C13H16N2O
reactant | 5-chloromethyl-3-(2-thienyl)-1,2,4-oxadiazole | ClCC1=NC(=NO1)C=1SC=CC1 | C7H5ClN2OS
product | 5-[4-[4-(1-imidazolyl)butyl]phenoxymethyl]-3-(2-thienyl)-1,2,4-oxadiazole | yield was 29% | N1(C=NC=C1)CCCCC1=CC=C(OCC2=NC(=NO2)C=2SC=CC2)C=C1 | C20H20N4O2S
